Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Compazine / Darvon / Cisapride / Acetylcysteine / Percocet
 
Attending: ___.
 
Chief Complaint:
R ___ Toe Pain
 
Major Surgical or Invasive Procedure:
R ___ Toe Amputation (___)
 
History of Present Illness:
___ y/o F with PMH of CAD s/p MI & CABG (4-vessel) in ___, PVD 
(R fem-pop in ___, L fem-pop in ___, b/l common and external 
iliac stenting in ___, T1DM on insulin pump, HTN, HLD, recent 
diagnosis of unknown autoimmune disease recently treated with 
high dose prednisone, azathioprine, and bactrim, who underwent 
angioplasty/stenting of venous graft in ___ and had emboli 
to R4th toe leading to nonhealing ulcer, who presents here after 
recently stopping immunosuppressives/Bactrim w/ persistent ulcer 
and new cellulitis. 

Patient has been followed by podiatry with a known gangrenous 
toe. There has been a plan for amputation, but surgery has been 
avoided in the setting of recent high dose steroids. She stopped 
immunosuppresives/Bactrim about 10 days prior to admission. 
Several days prior to admission she developed increasing pain 
and redness surrounding the toe. She was seen by her local 
podiatrist and sent here from ___ for admission. Of note, she 
says she was recently admitted to the hospital (discharged 2 
days ago) with a Hgb of 7.1 and was transfused two units blood. 
This also happened five weeks ago, and apparently her physicians 
do not know the cause of her anemia. Last colonoscopy ___ years 
ago. She denies fever or chills, chest pain, headaches, 
dizziness, SOB, abdominal pain, N/V, diarrhea, constipation, 
blood in stool, or blood in urine. She otherwise feels well. 

In the ED, initial VS were:
97.9 77 ___ RA 

Exam notable for:
Notable only for gangrenous right fourth toe, with some 
surrounding erythema. Erythema extending up right side of foot. 

Labs showed: 
Elevated CRP 19
lactate 1.6
Cr 1.5
WBC 5.4

Imaging showed:
XR R foot: IMPRESSION:  No definite radiographic evidence for 
osteomyelitis, but assessment of the fourth toe on the lateral 
view is somewhat limited. If there is continued concern for 
osteomyelitis, this could be better assessed with MRI. 

CXR: IMPRESSION:  No acute cardiopulmonary abnormality. 

Consults:
Podiatry: Followed by podiatry, Concern for right foot 
infection. Right ___ toe with exposed bone plantarly. 
Cellulitis, no purulence or malodor appreciated. Will need 
non-urgent ___ toe amputation on admission. Patient was recently 
on prednisone and history of PVD. Significant cardiac history, 
has not seen cardiologist in many months. Admit to medicine for 
iv abx, Pre-operative clearance. Plan for non-urgent R4th toe 
amp at some point on admission. Please start broad iv abx. 
Please obtain Right foot films, chest x ray. CBC, CHEM, Coags, 
lactate, ESR, CRP. Vascular/Rheum consults non-urgent, Can be 
done once on floor (Does not need to be consulted while in ED).

Patient received:
vanc 1g IV
cefepime 2 g IV
Carvedilol 12.5 mg po x1

Transfer VS were:  
75 172/54 15 100% RA 

On arrival to the floor, she was hypertensive to systolic 215, 
but was asymptomatic. Denies headaches, chest pain, blurry 
vision, dizziness, SOB, or abdominal pain. She was given 10 mg 
IV hydral, BP improved to systolic of 180. 
 
Past Medical History:
PMH: PVD, CAD s/p MI x 2 (___), DMI, HTN, hyperlipidemia,
childhood seizures 

PSH: Right fem-pop bypass 1990s, Right second toe amputation 
___, Bilateral common and external iliac artery stenting ___,
Left fem-to-above-knee popliteal bypass using nonreversed vein
___, c-section ___, tonsillectomy ___, cataract surgery
bilateral ___

 
Social History:
___
Family History:
non contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
====================================
VS: T 99.4, BP 163/45, HR 77, RR 18, 100% O2 RA
GENERAL: Comfortably sitting in bed, hard of hearing, no acute 
distress 
HEENT: Pupils equal and reactive to light, sclera mildy icteric, 
pink conjunctiva, MMM  
NECK: supple, no LAD, no JVD  
HEART: Regular rate and rhythm, ___ systolic  mumur heard 
loudest at LUSB, radiates to carotids, no rubs or gallops
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, ulcer on ___ R toe, no visible 
bone, no purulence, erythema on surrounding lateral right foot

DISCHARGE PHYSICAL EXAM:
====================================
V: T 98.6, BP 159/66-237/92, HR 80, RR 16, 96% RA
GENERAL: Comfortably sitting in bed, hard of hearing, no acute
distress 
HEENT: Pupils equal and reactive to light, slightly pink
conjunctiva, MMM  
NECK: supple, no LAD, no JVD  
HEART: Regular rate and rhythm, ___ systolic murmur, no rubs or
gallops
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, right foot wrapped, s/p 
amputation, dressing c/d/I
 
Pertinent Results:
ADMISSION LABS:
=================
___ 08:30PM BLOOD WBC-5.4 RBC-3.98 Hgb-12.3 Hct-37.9 MCV-95 
MCH-30.9 MCHC-32.5 RDW-19.3* RDWSD-66.8* Plt ___
___ 08:30PM BLOOD Neuts-53.6 ___ Monos-14.9* 
Eos-1.7 Baso-0.7 Im ___ AbsNeut-2.87 AbsLymp-1.37 
AbsMono-0.80 AbsEos-0.09 AbsBaso-0.04
___ 08:30PM BLOOD ___ PTT-26.6 ___
___ 08:30PM BLOOD Glucose-169* UreaN-41* Creat-1.5* Na-147 
K-3.9 Cl-106 HCO3-25 AnGap-16
___ 09:10AM BLOOD ALT-14 AST-18 LD(LDH)-333* AlkPhos-56 
TotBili-0.2
___ 09:10AM BLOOD Albumin-3.2* Calcium-8.6 Phos-2.3* Mg-1.9
___ 08:30PM BLOOD CRP-19.0*
___ 08:53PM BLOOD Lactate-1.6

IMAGING:
==========
-CXR (___): FINDINGS:  
  
Patient is status post median sternotomy and CABG.  Heart size 
is mildly 
enlarged.  Thoracic aorta is diffusely calcified mediastinal and 
hilar 
contours are unremarkable.  Lungs are clear.  No pleural 
effusion or 
pneumothorax is demonstrated.  Vasculature is normal.  There are 
no acute 
osseous abnormalities. 
  
IMPRESSION:  
  
No acute cardiopulmonary abnormality. 

-Foot XR (___): FINDINGS:    
Please note that the fourth toe is not well assessed on the 
lateral view due 
to overlap from adjacent its.  Patient is status post amputation 
of the second 
toe at the level of the base of the proximal phalanx.  No 
cortical destruction 
or periosteal new bone formation to suggest osteomyelitis is 
seen, though 
assessment of the plantar aspect of the fourth toe is limited on 
the lateral 
view.  There is diffuse soft tissue swelling about the foot and 
ankle without 
soft tissue gas.  Diffuse vascular calcifications are noted.  
There are no 
concerning lytic or sclerotic osseous abnormalities.  Mild joint 
space 
narrowing is seen involving the interphalangeal joints, and mild 
degenerative 
spurring is also noted in the midfoot. 
  
IMPRESSION:  
No definite radiographic evidence for osteomyelitis, but 
assessment of the 
fourth toe on the lateral view is somewhat limited.  If there is 
continued 
concern for osteomyelitis, this could be better assessed with 
MRI. 

-EKG (___): NSR, q waves in V1-V4 c/w old anterolateral infarct

-Echocardiography (___): The left atrium is normal in size. No 
atrial septal defect is seen by 2D or color Doppler. The 
estimated right atrial pressure is ___ mmHg. Left ventricular 
wall thickness, cavity size and regional/global systolic 
function are normal (LVEF >55%). Tissue Doppler imaging suggests 
an increased left ventricular filling pressure (PCWP>18mmHg). 
Right ventricular chamber size and free wall motion are normal. 
The diameters of aorta at the sinus, ascending and arch levels 
are normal. The aortic valve leaflets are mildly thickened (?#). 
There is no aortic valve stenosis. Trace aortic regurgitation is 
seen. The mitral valve leaflets are mildly thickened. An 
eccentric, posteriorly directed jet of mild to moderate (___) 
mitral regurgitation is seen. The estimated pulmonary artery 
systolic pressure is normal. There is no pericardial effusion. 

 IMPRESSION: Vigorous biventricular systolic function. Increased 
left ventricular filling pressure. Mild to moderate mitral 
regurgitation. Normal pulmonary pressure.

DISCHARGE LABS:
==============

___ 07:10AM BLOOD WBC-7.2 RBC-3.23* Hgb-10.1* Hct-31.4* 
MCV-97 MCH-31.3 MCHC-32.2 RDW-18.3* RDWSD-65.2* Plt ___
___ 07:10AM BLOOD Glucose-96 UreaN-23* Creat-1.4* Na-141 
K-4.1 Cl-105 HCO3-24 AnGap-12
___ 07:10AM BLOOD Calcium-8.5 Phos-2.7 Mg-2.___ y/o F with hx of CAD s/p MI & CABG (4-vessel) in ___, PVD (R 
fem-pop in ___, L fem-pop in ___, b/l common and external 
iliac stenting in ___, T1DM on insulin pump, HTN, HLD, recent 
diagnosis of ?inclusion body myositis, recently treated with 
high dose prednisone, azathioprine, and bactrim, who underwent 
angioplasty/stenting of venous graft in ___ and had emboli 
to R4th toe leading to nonhealing ulcer, who presented to ___ 
after recently stopping immunosuppressives/Bactrim w/ persistent 
ulcer and new cellulitis s/p amputation of the R fourth digit.

ACUTE ISSUES:
==============
___ R toe wound: 
#cellulitis:
#osteomyelitis:
She has a known plantar R4th digit wound w/ exposed bone ___ 
angioplasty embolism in ___, but presented with new onset 
cellulitis (erythema around ulcer and lateral right foot). Has 
been followed by podiatry in ___ as outpatient. They were 
planning on performing amputation, but were deferring in setting 
of recent high dose steroids. Now stopped immunosuppressives and 
Bactrim approximately 10 days prior to admission and developed 
new cellulitis. She was treated with IV vancomycin, ceftriaxone, 
and flagyl given often polymicrobial nature of diabetic ulcers. 
She was seen by vascular surgery prior to amputation who did not 
recommend any further vascular testing before the procedure. She 
underwent amputation on ___ w/ podiatry and had good pain 
control afterwards. Culture contained gram positive cocci in 
pairs and singles. She was discharged on PO cephalexin for 
treatment of cellulitis given the low likelihood of positive 
osteomyelitis margins per podiatry (to complete ___nd date ___. Final pathology pending at time of discharge 
but returned with clear margins.

#Syncope: Brief episode of LOC overnight ___ while with nursing 
staff. No head strike. Most likely vasovagal given history - 
after having gone to the bathroom, having nausea, followed by 
brief LOC. Endorses 10+ year history of syncopal episodes with 
nausea at home. Doesn't sound cardiac or neurologic in origin, 
and has had EKG and TTE WNL while here. Orthostatics normal. 

#Nausea: Patient given 1x tramadol and Tylenol w/ codeine, both 
of which made her very nauseous w/ emesis. She refused any 
antiemetics because they have increased her nausea in the past. 
She was transitioned to IV and then PO Tylenol with good effect 
and no nausea. She was able to tolerate a regular diet prior to 
discharge. 

#HTN: Intermittently hypertensive to low-mid ___ systolic (max 
237). Remains
asymptomatic - denies headaches, dizziness, chest pain, SOB. 
Increased AM carvedilol from 6.25 to 12.5mg (___), increased ___ 
carvedilol from 12.5mg to 25mg (___). Otherwise continued her 
home meds: imdur, valsartan, amlodipine, but held her home 
diuretic (40 mg Lasix PRN) because appeared euvolemic. Lasix was 
started upon discharge.

CHRONIC ISSUES:
================
#Autoimmune disease: Patient reports recent muscle wasting w/ 
non diagnostic muscle biopsy. Obtained outpatient records from 
rheumatologist Dr. ___ at ___ - 
tentative diagnosis of inclusion body myositis. S/p course of 
prednisone and azathioprine, stopped 1.5 weeks prior to 
admission b/c were not helping her symptoms. 

#?Normocytic anemia: Hgb stable at 12.3 on admission (___), 
downtrended to 10.1 on day of discharge. Patient reports anemia 
of unknown origin (Hgb 7.1), s/p 2U pRBCs 2 days prior to 
admission at OSH. On EPO at home, may be related to her CKD. H/H 
were monitored but she did not require any transfusions.

#CKD: Cr 1.5 on admission consistent with baseline, likely ___ 
DM and HTN. BUN/Cr remained stable throughout admission. 

#T1DM on insulin pump: Seen by ___ for insulin management. 
Given recently taken off prednisone, had to make fairly 
significant adjustments to basal insulin rates because was 
becoming hypoglycemic. Fingersticks ranging between 

#PVD with R fem-pop bypass, b/l common and external iliac artery 
stent, L fem-to-above-knee popliteal bypass 
#CAD with prior MI, prior CABG ___, ___
Asymptomatic while here. Continued ASA and Plavix 
perioperatively, as well as her atorvastatin and 
antihypertensives. EKG demonstrated old anterolateral infarct w/ 
Q waves in V1-V4. TTE demonstrated mild-moderate mitral 
regurgitation, mildly increased LV filling pressures, and 
vigorous biventricular systolic function.

TRANSITIONAL ISSUES:
================
-New medications:
 -Cephalexin 500 mg PO Q8H Duration: 6 Doses (Complete ___

-Changed medications:
 -Carvedilol 6.25 mg PO QAM increased to 12.5 mg PO QAM 
 -Carvedilol 12.5 mg PO QHS increased to 25 mg PO QHS

-Follow-up final pathology on toe amputation to ensure has 
adequate antibiotic coverage (would need PICC line and IV 
antibiotics if bone margins are positive)
-Monitor blood pressure as an outpatient, if having trouble 
controlling, consider work-up for secondary hypertension 
(Doppler US for renal artery stenosis).
-Ensure follow up with podiatry
-Consider further work up of anemia including colonoscopy
-Please ensure adequate follow up with endocrinology given 
multiple changes to pump made in house 

-CODE: Full (Limited trial life sustaining treatment) 
-CONTACT: Husband, HCP ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Valsartan 40 mg PO BID 
2. Carvedilol 12.5 mg PO QHS 
3. amLODIPine 2.5 mg PO DAILY 
4. darbepoetin alfa in polysorbat unknown  injection unknown 
5. Furosemide 30 mg PO DAILY Volume overload 
6. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
7. Clopidogrel 75 mg PO DAILY 
8. Calcium Carbonate 750 mg PO DAILY 
9. Aspirin 162 mg PO QHS 
10. FoLIC Acid 1 mg PO QPM 
11. Calcitriol 0.25 mcg PO 5X/WEEK (___) 
12. Vitamin D 1000 UNIT PO 3X/WEEK (___) 
13. Atorvastatin 80 mg PO QPM 
14. Carvedilol 6.25 mg PO QAM 
15. PreserVision Lutein (vit C-vit E-copper-zinc-lutein) 226 
mg-200 unit -5 mg-0.8 mg oral BID 
16. krill oil Unkown  oral DAILY 

 
Discharge Medications:
1.  Cephalexin 500 mg PO Q8H Duration: 6 Doses 
Please take three times a day for 2 more days ___ and ___. 
RX *cephalexin 500 mg 1 capsule(s) by mouth three times per day 
Disp #*6 Capsule Refills:*0 
2.  Carvedilol 12.5 mg PO QAM 
RX *carvedilol 12.5 mg 1 tablet(s) by mouth every morning Disp 
#*30 Tablet Refills:*0 
3.  Carvedilol 25 mg PO QHS 
RX *carvedilol 25 mg 1 tablet(s) by mouth every night Disp #*30 
Tablet Refills:*0 
4.  amLODIPine 2.5 mg PO DAILY  
5.  Aspirin 162 mg PO QHS  
6.  Atorvastatin 80 mg PO QPM  
7.  Calcitriol 0.25 mcg PO 5X/WEEK (___)  
8.  Calcium Carbonate 750 mg PO DAILY  
9.  Clopidogrel 75 mg PO DAILY  
10.  darbepoetin alfa in polysorbat unknown  injection Frequency 
is Unknown  
11.  FoLIC Acid 1 mg PO QPM  
12.  Furosemide 30 mg PO DAILY Volume overload  
13.  Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY  
14.  krill oil Unkown unknown oral DAILY  
15.  PreserVision Lutein (vit C-vit E-copper-zinc-lutein) 226 
mg-200 unit -5 mg-0.8 mg oral BID  
16.  Valsartan 40 mg PO BID  
17.  Vitamin D 1000 UNIT PO 3X/WEEK (___)  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
Diabetic Foot Ulcer
Cellulitis
Osteomyelitis
Hypertensive Urgency

Secondary Diagnosis:
Type 1 Diabetes
Coronary Artery Disease
Peripheral Vascular Disease
Syncope
Chronic Kidney Disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

Why you were admitted to the hospital:
-You had an ulcer on your right ___ toe and an infection of the 
surrounding skin

What was done for you:
-You were treated with intravenous antibiotics
-You underwent amputation of your toe on ___
-Your pain was treated with Tramadol, Iylenol with Codeine, and 
then Tylenol alone because of nausea
-Your blood pressure was very high several times so your 
carvedilol dose was increased
-You had an ultrasound of your heart which showed no evidence of 
heart failure
-You were seen by an endocrinologist at ___ 
who monitored your blood glucose and adjusted your insulin pump 
as needed

What you should do now:
-Please make an appointment with your primary care doctor within 
one week of discharge
-Complete 7 day course of antibiotics (you received first dose 
on ___ - take 3 additional doses of Keflex
-Dress wound daily with betadine, gauze, kerlix, and ACE bandage
-Please call ___ Podiatry ___ to make post-operative 
follow-up appointment
-Follow-up with your primary care physician ___ 2 weeks of 
discharge
-Attend all follow-up appointments as below
-Take all medicines as prescribed below
-Dress your wound daily with betadine, gauze, kerlix, and ACE
bandage.  

It was a pleasure meeting and taking care of you!
-Your ___ Care Team

-New medications:
  -Cephalexin 500 mg PO Q8H Duration: 6 Doses (Complete ___

-Changed medications:
  -Carvedilol 6.25 mg PO QAM increased to 12.5 mg PO QAM 
  -Carvedilol 12.5 mg PO QHS increased to 25 mg PO QHS

 
Followup Instructions:
___